US07741354B2
Compound 28: [(1-Cyclopentyl-1H-tetrazol-5-yl)-(3,4-dihydro-2H-pyran-2-yl)-methyl]-(3-imidazol-1-yl-propyl)-amine
3-Imidazol-1-yl-propylamine (1 mmol) and 3,4-Dihydro-2H-pyran-2-carbaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours Trimethylsilylazide (5 mmol) and Isocyano-cyclopentan (1 mmol) was added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 3,4-Dihydro-2H-pyran-2-carbaldehyde | 1 mmol | O1C(CCC=C1)C=O | C6H8O2
reactant | Trimethylsilylazide | 5 mmol | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | Isocyano-cyclopentan | 1 mmol | [N+](#[C-])C1CCCC1 | C6H9N
solvent | methanol | 2 ml | CO | CH4O
product | [(1-Cyclopentyl-1H-tetrazol-5-yl)-(3,4-dihydro-2H-pyran-2-yl)-methyl]-(3-imidazol-1-yl-propyl)-amine | C1(CCCC1)N1N=NN=C1C(C1OC=CCC1)NCCCN1C=NC=C1 | C18H27N7O
